US05075502
Preparation of N,N'-Bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-5-[N-(2-hydroxyethyl)acetamido]-2,4,6-triiodoisophthalamide
5-Acetamido-N,N'-bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-2,4,6-triiodoisophthalamide, prepared as in Example 2, Step B, (83.5 g, 0.1 g-mole) is dissolved in 1 N NaOH (140 ml, 0.14 g-mole) and the solution is stirred at room temperature for 1 hour and 2-chloroethanol (13.7 g, 0.17 g-mole) is added. The solution is stirred at 50° C. for 5 hours to complete the reaction. The solution is acidified with H2SO4 and evaporated to dryness under reduced pressure. The residue is triturated with MeOH and the precipitated solid is filtered. The mother liquor is concentrated under vacuum and the crude product is purified by reverse-phase (C18) HPLC to give the purified final product. The yield of this reaction and purification is 80%.

reactant | 5-Acetamido-N,N'-bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-2,4,6-triiodoisophthalamide | C(C)(=O)NC=1C(=C(C(=C(C(=O)NCC(O)CC(CO)O)C1I)I)C(=O)NCC(O)CC(CO)O)I | C20H28I3N3O9
reactant | 2-chloroethanol | 13.7 g | ClCCO | C2H5ClO
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | NaOH | 1 N, 140 ml, 0.14 g | [OH-].[Na+]
product | N,N'-Bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-5-[N-(2-hydroxyethyl)acetamido]-2,4,6-triiodoisophthalamide | OC(CC(CNC(C1=C(C(C(=O)NCC(O)CC(CO)O)=C(C(=C1I)N(C(C)=O)CCO)I)I)=O)O)CO | C22H32I3N3O10
